US07531663B2
0.333 g (7.94 mmol) of lithium hydroxide monohydrate and 60 cm3 of water are added at 25° C. to 1.2 g (3.97 mmol) of 3-methoxycarbonyl-1-(isoquinol-1-yl)-1H-indole dissolved in 60 cm3 of tetrahydrofuran. After stirring at reflux for 22 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is taken up in 30 cm3 of water and then triturated with 8 cm3 of 5N hydrochloric acid. After filtering off and drying the solid residue under reduced pressure (2.7 kPa) at 40° C., 1.2 g of 3-carboxy-1-(isoquinol-1-yl)-1H-indole are obtained in the form of a white solid. Mass spectrum (EI): m/e 288 (M+·), m/e 243.

reactant | lithium hydroxide monohydrate | 7.94 mmol, 0.333 g | O.[OH-].[Li+]
reactant | 3-methoxycarbonyl-1-(isoquinol-1-yl)-1H-indole | 3.97 mmol | COC(=O)C1=CN(C2=CC=CC=C12)C1=NC=CC2=CC=CC=C12 | C19H14N2O2
solvent | tetrahydrofuran | 60 cm3 | O1CCCC1 | C4H8O
solvent | water | 30 cm3 | O | H2O
solvent | water | 60 cm3 | O | H2O
product | 3-carboxy-1-(isoquinol-1-yl)-1H-indole | 1.2 g | C(=O)(O)C1=CN(C2=CC=CC=C12)C1=NC=CC2=CC=CC=C12 | C18H12N2O2
